US04156791
Where desired, a mixture of water and methylheptafluorobutyrate can be distilled to produce an overhead water/methylheptafluorobutyrate azeotrope. This can be condensed and sufficiently highly cooled to cause phase separation into a light, predominantly aqueous liquid phase and a heavy, predominantly organic liquid phase, and the heavy phase then can be returned to the distillation pot until the water content of the original mixture is substantially exhausted. Temperatures at which the condensate can be cooled can range from about -20° C. to about 75° C., more usually about 0°-30° C., employing any convenient pressure such as atmospheric pressure to maintain substantially liquid phase.

reactant | methylheptafluorobutyrate | COC(C(C(C(F)(F)F)(F)F)(F)F)=O | C5H3F7O2
solvent | water | O | H2O
product | water methylheptafluorobutyrate | O.COC(C(C(C(F)(F)F)(F)F)(F)F)=O | InChI=1S/C5H3F7O2.H2O/c1-14-2(13)3(6,7)4(8,9)5(10,11)12;/h1H3;1H2
